US04521241
A solution of 54.8 g of methyl 2-bromomethyl-3-nitrobenzoate in a mixture of 200 ml dioxane and 45 ml water was refluxed for 72 hours. The reaction solution was cooled and concentrated in vacuo. The resulting solid was slurried in water, collected, washed with water and dried. Recrystallization from 1-chlorobutane gave 21.4 g of 1,3-dihydro-4-nitrobenzo[c]furan-1-one, m.p. 133.5°-136°.

reactant | methyl 2-bromomethyl-3-nitrobenzoate | 54.8 g | BrCC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C9H8BrNO4
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | water | 45 ml | O | H2O
product | 1,3-dihydro-4-nitrobenzo[c]furan-1-one | 21.4 g | [N+](=O)([O-])C1=CC=CC=2C(OCC21)=O | C8H5NO4
